US07320993B1
N-[4-(3,3-diphenyl-ureido)-butyl]-3-pyridin-3-yl-acrylamide (Substance 268)
Batch size: 3.5 g (23.5 mmol) 3-(3-pyridyl)-acrylic acid, 4.0 g (31.5 mmol) oxalyl chloride and 6.0 g (21.1 mmol) 4-(3,3-diphenyl-ureido)-butylamine.

reactant | 3-(3-pyridyl)-acrylic acid | 23.5 mmol, 3.5 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | oxalyl chloride | 31.5 mmol, 4.0 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(3,3-diphenyl-ureido)-butylamine | 21.1 mmol, 6.0 g | C1(=CC=CC=C1)N(C(NCCCCN)=O)C1=CC=CC=C1 | C17H21N3O
product | N-[4-(3,3-diphenyl-ureido)-butyl]-3-pyridin-3-yl-acrylamide | C1(=CC=CC=C1)N(C(NCCCCNC(C=CC=1C=NC=CC1)=O)=O)C1=CC=CC=C1 | C25H26N4O2
